US09062048B2
Step E: tert-butyl 3-(2-(methyl(6-(trifluoromethyl)quinazolin-4-yl)amino)acetamido)azetidine-1-carboxylate
A mixture of tert-butyl 3-(2-(methylamino)acetamido)azetidine-1-carboxylate (348 mg, 1.43 mmol) as prepared in the previous step and commercially available 4-chloro-6-(trifluoromethyl)quinazoline (327 mg, 1.41 mmol) were stirred in anhydrous iPrOH and triethylamine at 90° C. under argon for 1 hour. The reaction mixture was concentrated in vacuo and the residue purified by flash chromatography (silica gel, 0%-5% MeOH/EtOAc) to give a yellow solid after drying under high vac.

reactant | tert-butyl 3-(2-(methylamino)acetamido)azetidine-1-carboxylate | 1.43 mmol, 348 mg | CNCC(=O)NC1CN(C1)C(=O)OC(C)(C)C | C11H21N3O3
reactant | 4-chloro-6-(trifluoromethyl)quinazoline | 1.41 mmol, 327 mg | ClC1=NC=NC2=CC=C(C=C12)C(F)(F)F | C9H4ClF3N2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | iPrOH | CC(C)O | C3H8O
product | tert-butyl 3-(2-(methyl(6-(trifluoromethyl)quinazolin-4-yl)amino)acetamido)azetidine-1-carboxylate | CN(CC(=O)NC1CN(C1)C(=O)OC(C)(C)C)C1=NC=NC2=CC=C(C=C12)C(F)(F)F | C20H24F3N5O3
